US07026416B2
A 500 ml reactor made of glass was substituted by nitrogen, 46.6 g of 2-cyclohexylcyclohexanol and 200 ml of dehydrated chloroform were charged therein, and the resultant solution was stirred by a stirrer, and then 7.70 g of paraformaldehyde was added therein at the time of complete dissolution. Next, the reactor was cooled to 0 to 5° C. by ice bath, and hydrogen chloride was introduced into the solution by a bubbler. When a suspension of the solution caused by paraformaldehyde became clear and the solution became transparent, the introduction of hydrogen chloride was stopped. The lower phase was separately isolated, followed by drying by adding 28.3 g of anhydrous calcium chloride powder. Thereafter, 48.0 g of chloromethyl(2-cyclohexylcyclohexyl)ether was obtained (the purity according to 1H NMR was 87%) after distillation of the solvent.

reactant | 2-cyclohexylcyclohexanol | 46.6 g | C1(CCCCC1)C1C(CCCC1)O | C12H22O
reactant | paraformaldehyde | 7.70 g | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | chloromethyl(2-cyclohexylcyclohexyl)ether | 48.0 g | ClCOC1C(CCCC1)C1CCCCC1 | C13H23ClO
